US08686005B2
2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-[1-(2-methanesulfonyl-ethyl)-piperidin-4-yl]-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one:
A mixture of 2-{4-[(R)-3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-piperidin-4-yl-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one (3.04 g, 5.6 mmol) and methyl vinyl sulfone (5.94 g, 56 mmol) in a mixed solvent of EtOH (70.0 mL) and 2-propanol (70.0 mL) was heated at 100° C. for 22 h and then evaporated. Chromatography of the residue with CH2Cl2/MeOH/28% aqueous NH4OH (190:10:1) afforded title compound (2.82 g, 78%). 1H NMR (DMSO-d6) δ 1.68-1.85 (4H), 2.15 (m, 2H), 2.18 (s, 311, CH3), 2.21 (s, 3H, CH3), 2.75 (m, 2H), 3.05 (m, 2H), 3.08 (s, 3H, CH3), 3.54 (m, 1H), 3.70 (m, 1H), 3.93-4.19 (4H), 4.43 (s, 1H), 4.47 (s, 1H), 5.48 (d, J=6 Hz, 0.5H, NH), 5.53 (d, J=6 Hz, 0.5H, NH), 6.20 (m, 1H), 6.81 (m, 1H), 6.90-6.99 (2H), 7.31-7.37 (1.5H), 7.67 (s, 0.5H), 7.80 (s, 0.5H), 7.94 (s, 0.5H), 11.14 (br d, J=6 Hz, 1H, NH), 11.22 (br d, J=6 Hz, 1H, NH); ESI-MS m/z 649.5 (MH+); Anal. Calcd for C33H40N6O6S: C, 61.09; H, 6.21; N, 12.95, S 4.94. Found: C, 60.85; H, 6.17; N, 12.87, S 4.85.

reactant | 2-{4-[(R)-3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-piperidin-4-yl-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one | 5.6 mmol, 3.04 g | CC1=C(OC[C@@H](CNC2=C(C(NC=C2)=O)C2=NC3=CC=4CN(C(C4C=C3N2)=O)C2CCNCC2)O)C=CC(=C1)C | C30H34N6O4
reactant | methyl vinyl sulfone | 56 mmol, 5.94 g | C(=C)S(=O)(=O)C | C3H6O2S
reactant | EtOH | 70.0 mL | CCO | C2H6O
solvent | 2-propanol | 70.0 mL | CC(C)O | C3H8O
product | 2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-[1-(2-methanesulfonyl-ethyl)-piperidin-4-yl]-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one | 2.82 g, 78% | CC1=C(OC[C@@H](CNC2=C(C(NC=C2)=O)C2=NC3=CC=4CN(C(C4C=C3N2)=O)C2CCN(CC2)CCS(=O)(=O)C)O)C=CC(=C1)C | C33H40N6O6S
